US07829560B2
Tert-butyl (4-hydroxy-1-naphthyl)carbamate (3.93 g, 15.1 mmol), 1-bromo-3-chloropropane (5.5 g, 34.8 mmol), and K2CO3 (10.0 g, 75.8 mmol) in acetonitrile (50 ml) are heated to 80° C. with agitation for 8 h. After cooling to room temperature the mixture is filtered and concentrated under vacuum. The residue is purified by column chromatography on silica gel to yield [4-(3-chloropropoxy)-naphthalen-1-yl]-carbamic acid tert-butyl ester. 4 g, 78% is produced as an off-white solid. MS: 336.2 (M+1).

reactant | Tert-butyl (4-hydroxy-1-naphthyl)carbamate | 15.1 mmol, 3.93 g | OC1=CC=C(C2=CC=CC=C12)NC(OC(C)(C)C)=O | C15H17NO3
reactant | 1-bromo-3-chloropropane | 34.8 mmol, 5.5 g | BrCCCCl | C3H6BrCl
reactant | K2CO3 | 75.8 mmol, 10.0 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | [4-(3-chloropropoxy)-naphthalen-1-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=CC=C(C2=CC=CC=C12)OCCCCl)=O | C18H22ClNO3
